US05296495
A mixture of 4-hexyl-2-[5-(2-chloromethylphenylmethoxy)benzofuran-2-yl]thiazole (0.80 g), sodium cyanide (0.16 g) and potassium iodide (0.13 g) in methanol (10 ml) was refluxed for 2 hours. After being cooled, the mixture was poured into brine, extracted with ethyl acetate, dried over magnesium sulfate and concentrated in reduced pressure. The resulting residue was subjected to column chromatography on silica gel and eluted with a mixture of ethyl acetate and chloroform (1:33). The fractions containing object compound were combined and concentrated under reduced pressure to give an oil of 4-hexyl-2-[5-(2-cyanomethylphenylmethoxy)benzofuran-2-yl]thiazole (0.66 g).

reactant | 4-hexyl-2-[5-(2-chloromethylphenylmethoxy)benzofuran-2-yl]thiazole | 0.80 g | C(CCCCC)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(C=CC=C2)CCl | C25H26ClNO2S
reactant | sodium cyanide | 0.16 g | [C-]#N.[Na+]
reactant | potassium iodide | 0.13 g | [I-].[K+]
solvent | methanol | 10 ml | CO | CH4O
solvent | brine | [Cl-].[Na+].O
product | 4-hexyl-2-[5-(2-cyanomethylphenylmethoxy)benzofuran-2-yl]thiazole | 0.66 g | C(CCCCC)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(C=CC=C2)CC#N | C26H26N2O2S
